US04171378
6-(p-Tolyl)hexyl iodide [VIa; Ar is 4-CH3C6H4, R is H] was prepared from 6-(p-tolyl)hexyl bromide (Preparation C14) and sodium iodide in acetone according to the procedure of Preparation D2 above.

reactant | 6-(p-tolyl)hexyl bromide | C1(=CC=C(C=C1)CCCCCCBr)C | C13H19Br
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 6-(p-Tolyl)hexyl iodide | C1(=CC=C(C=C1)CCCCCCI)C | C13H19I
